### PR TITLE
Fibered maps

### PR DESCRIPTION
**Pull request by fredrik-bakke**
### Summary
- Additions to `foundation.fibered-maps`
- Add `foundation.fibered-equivalences` and some basic properties of fibered equivalences
- Add `foundation.fibered-involutions` and some basic properties of fibered involutions
- Refactor `foundation.slice`
- Miscellaneous refactoring
- Add a bunch of references to the `equality-*`, `functoriality-*` and `type-arithmetic-*` files
- Add references between notions of equivalence

### CODE REVIEW

**Comment by fredrik-bakke** [comment]
Is it correct that the `{-# OPTIONS --without-K --exact-split #-}` pragmas are redundant since these are enabled as global options in the project?

**Comment by EgbertRijke** [comment]
Yep, that's correct

File: src/foundation-core/fibers-of-maps.lagda.md [hunk 1]
```diff
@@ -50,52 +48,49 @@ module _
   Eq-fib s t = Σ (pr1 s ＝ pr1 t) (λ α → ((ap f α) ∙ (pr2 t)) ＝ (pr2 s))
 
   refl-Eq-fib : (s : fib f b) → Eq-fib s s
-  pr1 (refl-Eq-fib s) = refl
-  pr2 (refl-Eq-fib s) = refl
+  refl-Eq-fib s = refl , refl
```
Comment (EgbertRijke) [inline src/foundation-core/fibers-of-maps.lagda.md:51]: Agda behaves computationally a bit better if we define pairs by copattern matching. So I prefer to keep the old definition.

File: src/foundation-core/fibers-of-maps.lagda.md [hunk 2]
```diff
@@ -50,52 +48,49 @@ module _
...
+    is-equiv-Eq-eq-fib =
       is-equiv-has-inverse
         eq-Eq-fib-uncurry
         issec-eq-Eq-fib
         isretr-eq-Eq-fib
 
   equiv-Eq-eq-fib : {s t : fib f b} → (s ＝ t) ≃ Eq-fib s t
-  pr1 (equiv-Eq-eq-fib {s} {t}) = Eq-eq-fib
-  pr2 (equiv-Eq-eq-fib {s} {t}) = is-equiv-Eq-eq-fib
+  equiv-Eq-eq-fib = Eq-eq-fib , is-equiv-Eq-eq-fib
```
Comment (EgbertRijke) [inline src/foundation-core/fibers-of-maps.lagda.md:81]: Here again, I prefer to keep the old definition

File: src/foundation-core/fibers-of-maps.lagda.md [hunk 3]
```diff
@@ -50,52 +48,49 @@ module _
...
+    is-equiv-eq-Eq-fib =
       is-equiv-has-inverse
         Eq-eq-fib
         isretr-eq-Eq-fib
         issec-eq-Eq-fib
 
   equiv-eq-Eq-fib : {s t : fib f b} → Eq-fib s t ≃ (s ＝ t)
-  pr1 (equiv-eq-Eq-fib {s} {t}) = eq-Eq-fib-uncurry
-  pr2 (equiv-eq-Eq-fib {s} {t}) = is-equiv-eq-Eq-fib
+  equiv-eq-Eq-fib = eq-Eq-fib-uncurry , is-equiv-eq-Eq-fib
```
Comment (EgbertRijke) [inline src/foundation-core/fibers-of-maps.lagda.md:93]: Here again, I prefer to keep the old definition

File: src/foundation-core/fibers-of-maps.lagda.md [hunk 4]
```diff
@@ -109,53 +104,50 @@ module _
   Eq-fib' s t = Σ (pr1 s ＝ pr1 t) (λ α → (pr2 t ＝ ((pr2 s) ∙ (ap f α))))
 
   refl-Eq-fib' : (s : fib' f b) → Eq-fib' s s
-  pr1 (refl-Eq-fib' s) = refl
-  pr2 (refl-Eq-fib' s) = inv right-unit
+  refl-Eq-fib' s = refl , inv right-unit
```
Comment (EgbertRijke) [inline src/foundation-core/fibers-of-maps.lagda.md:107]: Here again, I prefer to keep the old definition

File: src/foundation-core/fibers-of-maps.lagda.md [hunk 5]
```diff
@@ -109,53 +104,50 @@ module _
...
+    is-equiv-Eq-eq-fib' =
       is-equiv-has-inverse
         eq-Eq-fib-uncurry'
         issec-eq-Eq-fib'
         isretr-eq-Eq-fib'
 
   equiv-Eq-eq-fib' : {s t : fib' f b} → (s ＝ t) ≃ Eq-fib' s t
-  pr1 (equiv-Eq-eq-fib' {s} {t}) = Eq-eq-fib'
-  pr2 (equiv-Eq-eq-fib' {s} {t}) = is-equiv-Eq-eq-fib'
+  equiv-Eq-eq-fib' = Eq-eq-fib' , is-equiv-Eq-eq-fib'
```
Comment (EgbertRijke) [inline src/foundation-core/fibers-of-maps.lagda.md:138]: Here again, I prefer to keep the old definition

File: src/foundation-core/fibers-of-maps.lagda.md [hunk 6]
```diff
@@ -109,53 +104,50 @@ module _
...
+    is-equiv-eq-Eq-fib' =
       is-equiv-has-inverse
         Eq-eq-fib'
         isretr-eq-Eq-fib'
         issec-eq-Eq-fib'
 
   equiv-eq-Eq-fib' : {s t : fib' f b} → Eq-fib' s t ≃ (s ＝ t)
-  pr1 (equiv-eq-Eq-fib' {s} {t}) = eq-Eq-fib-uncurry'
-  pr2 (equiv-eq-Eq-fib' {s} {t}) = is-equiv-eq-Eq-fib'
+  equiv-eq-Eq-fib' = eq-Eq-fib-uncurry' , is-equiv-eq-Eq-fib'
```
Comment (EgbertRijke) [inline src/foundation-core/fibers-of-maps.lagda.md:150]: Here again, I prefer to keep the old definition. Omitting the implicit arguments is fine.

File: src/foundation-core/fibers-of-maps.lagda.md [hunk 7]
```diff
@@ -164,18 +156,18 @@ module _
 module _
   {l1 l2 : Level} {A : UU l1} {B : UU l2} (f : A → B) (y : B)
   where
-  
+
   map-equiv-fib : fib f y → fib' f y
-  map-equiv-fib (pair x refl) = pair x refl
+  map-equiv-fib (x , refl) = x , refl
```
Comment (EgbertRijke) [inline src/foundation-core/fibers-of-maps.lagda.md:161]: This could be defined by copatter matching

File: src/foundation-core/fibers-of-maps.lagda.md [hunk 8]
```diff
@@ -164,18 +156,18 @@ module _
...
 
   map-inv-equiv-fib : fib' f y → fib f y
-  map-inv-equiv-fib (pair x refl) = pair x refl
+  map-inv-equiv-fib (x , refl) = x , refl
```
Comment (EgbertRijke) [inline src/foundation-core/fibers-of-maps.lagda.md:164]: This could be defined by copattern matching

File: src/foundation-core/fibers-of-maps.lagda.md [hunk 9]
```diff
@@ -197,13 +189,13 @@ module _
   where
 
   map-fib-pr1 : fib (pr1 {B = B}) a → B a
-  map-fib-pr1 (pair (pair x y) p) = tr B p y
+  map-fib-pr1 ((x , y) , p) = tr B p y
 
   map-inv-fib-pr1 : B a → fib (pr1 {B = B}) a
-  map-inv-fib-pr1 b = pair (pair a b) refl
+  map-inv-fib-pr1 b = (a , b) , refl
```
Comment (EgbertRijke) [inline src/foundation-core/fibers-of-maps.lagda.md:195]: This could be defined by copattern matching

File: src/foundation-core/fibers-of-maps.lagda.md [hunk 10]
```diff
@@ -239,19 +231,19 @@ module _
...
+
   map-equiv-total-fib : (Σ B (fib f)) → A
   map-equiv-total-fib t = pr1 (pr2 t)
 
   triangle-map-equiv-total-fib : pr1 ~ (f ∘ map-equiv-total-fib)
   triangle-map-equiv-total-fib t = inv (pr2 (pr2 t))
 
   map-inv-equiv-total-fib : A → Σ B (fib f)
-  map-inv-equiv-total-fib x = pair (f x) (pair x refl)
+  map-inv-equiv-total-fib x = f x , x , refl
```
Comment (EgbertRijke) [inline src/foundation-core/fibers-of-maps.lagda.md:242]: This could be defined by copattern matching

File: src/foundation-core/fibers-of-maps.lagda.md [hunk 11]
```diff
@@ -284,51 +276,59 @@ module _
...
-abstract
-  is-equiv-inv-map-compute-fib-comp : {l1 l2 l3 : Level} {A : UU l1} {B : UU l2}
-    {X : UU l3} (g : B → X) (h : A → B) (x : X) →
-    is-equiv (inv-map-compute-fib-comp g h x)
-  is-equiv-inv-map-compute-fib-comp g h x =
-    is-equiv-has-inverse
-      ( map-compute-fib-comp g h x)
-      ( isretr-inv-map-compute-fib-comp g h x)
-      ( issec-inv-map-compute-fib-comp g h x)
+module _
```
Comment (EgbertRijke) [inline src/foundation-core/fibers-of-maps.lagda.md:279]: Good call. This should definitely have been in a module.

File: src/foundation-core/fibers-of-maps.lagda.md [hunk 12]
```diff
@@ -284,51 +276,59 @@ module _
...
+  {l1 l2 l3 : Level} {A : UU l1} {B : UU l2} {X : UU l3}
+  (g : B → X) (h : A → B) (x : X)
+  where
+
+  map-compute-fib-comp :
+    fib (g ∘ h) x → Σ (fib g x) (λ t → fib h (pr1 t))
+  map-compute-fib-comp (a , p) = (h a , p) , a , refl
```
Comment (EgbertRijke) [inline src/foundation-core/fibers-of-maps.lagda.md:286]: This could be defined by copattern matching

File: src/foundation-core/fibers-of-maps.lagda.md [hunk 13]
```diff
@@ -284,51 +276,59 @@ module _
...
+
+  inv-map-compute-fib-comp :
+    Σ (fib g x) (λ t → fib h (pr1 t)) → fib (g ∘ h) x
+  inv-map-compute-fib-comp t =
+    pr1 (pr2 t) , (ap g (pr2 (pr2 t))) ∙ (pr2 (pr1 t))
```
Comment (EgbertRijke) [inline src/foundation-core/fibers-of-maps.lagda.md:291]: This could be defined by copattern matching

File: src/foundation-core/fibers-of-maps.lagda.md [hunk 14]
```diff
@@ -284,51 +276,59 @@ module _
...
+    is-equiv-map-compute-fib-comp =
+      is-equiv-has-inverse
+        ( inv-map-compute-fib-comp)
+        ( issec-inv-map-compute-fib-comp)
+        ( isretr-inv-map-compute-fib-comp)
+
+  equiv-compute-fib-comp :
+    fib (g ∘ h) x ≃ Σ (fib g x) (λ t → fib h (pr1 t))
+  equiv-compute-fib-comp =
+    map-compute-fib-comp , is-equiv-map-compute-fib-comp
```
Comment (EgbertRijke) [inline src/foundation-core/fibers-of-maps.lagda.md:314]: This could be defined by copattern matching

File: src/foundation-core/fibers-of-maps.lagda.md [hunk 15]
```diff
@@ -284,51 +276,59 @@ module _
...
+    is-equiv-inv-map-compute-fib-comp =
+        is-equiv-has-inverse
+          ( map-compute-fib-comp)
+          ( isretr-inv-map-compute-fib-comp)
+          ( issec-inv-map-compute-fib-comp)
+
+  inv-equiv-compute-fib-comp :
+    Σ (fib g x) (λ t → fib h (pr1 t)) ≃ fib (g ∘ h) x
+  inv-equiv-compute-fib-comp =
+    inv-map-compute-fib-comp , is-equiv-inv-map-compute-fib-comp
```
Comment (EgbertRijke) [inline src/foundation-core/fibers-of-maps.lagda.md:328]: This could be defined by copattern matching

File: src/foundation/decidable-embeddings.lagda.md [hunk 16]
```diff
@@ -234,14 +234,13 @@ abstract
...
-          ( fib-comp g f x)
+          ( equiv-compute-fib-comp g f x)
           ( is-decidable-equiv
-          ( left-unit-law-Σ-is-contr
-            ( is-proof-irrelevant-is-prop
-              ( is-prop-map-is-emb (is-emb-is-decidable-emb K) x)
-                ( u))
-                ( u))
-              ( is-decidable-map-is-decidable-emb H (pr1 u))))
+            ( left-unit-law-Σ-is-contr
```
Comment (EgbertRijke) [inline src/foundation/decidable-embeddings.lagda.md:239]: Well spotted!

File: src/foundation/fibered-maps.lagda.md [hunk 17]
```diff
@@ -3,104 +3,296 @@ title: Maps fibered over a map
...
+## Definition
+
+```agda
+module _
+  {l1 l2 l3 l4 : Level} {A : UU l1} {B : UU l2} {X : UU l3} {Y : UU l4}
+  (f : A → X) (g : B → Y)
+  where
+
+  is-map-over : (i : X → Y) (h : A → B) → UU (l1 ⊔ l4)
+  is-map-over i h = (i ∘ f) ~ (g ∘ h)
```
Comment (EgbertRijke) [inline src/foundation/fibered-maps.lagda.md:51]: It is probably better to use `coherence-square` from `foundation.commuting-squares`. This has been used in many places in the library, and ensures that commuting squares are always stated in the same way.

File: src/foundation/fibered-maps.lagda.md [hunk 18]
```diff
@@ -3,104 +3,296 @@ title: Maps fibered over a map
...
+  map-over-self : map-over id id h
+  map-over-self = pair h is-fibered-over-self
+
+  fibered-map-self : fibered-map id id
+  fibered-map-self = pair h map-over-self
+
+  is-fibered-id : is-map-over h h id id
+  is-fibered-id = refl-htpy
+
+  map-over-id : map-over h h id
```
Comment (EgbertRijke) [inline src/foundation/fibered-maps.lagda.md:292]: `id-map-over` to be consistent with `id-equiv` and other instances of identity maps

File: src/foundation/fibered-maps.lagda.md [hunk 19]
```diff
@@ -3,104 +3,296 @@ title: Maps fibered over a map
...
+  map-over-id = pair id is-fibered-id
+
+  fibered-map-id : fibered-map h h
+  fibered-map-id = pair id map-over-id
```
Comment (EgbertRijke) [inline src/foundation/fibered-maps.lagda.md:296]: `id-fibered-map`

File: src/foundation/fibers-of-maps.lagda.md [hunk 20]
```diff
@@ -31,25 +24,6 @@ open import foundation.unit-type
 
 ## Properties
 
-### The fibers of a composition
-
-```agda
-fib-comp :
```
Comment (EgbertRijke) [inline src/foundation/fibers-of-maps.lagda.md:37]: Where did this definition go?

**Comment by fredrik-bakke** [comment]
I see. So would you welcome a PR removing them?

File: src/foundation/slice.lagda.md [hunk 21]
```diff
@@ -3,334 +3,39 @@ title: Morphisms of the slice category of types
 ---
```
Comment (EgbertRijke) [inline src/foundation/slice.lagda.md:3]: Why did all of this have to move to `foundation-core`? 

In principle, I've been keeping as much stuff as possible in `foundation`, and only moved things to `foundation-core` if it was necessary to resolve some cyclic dependencies.

Comment (EgbertRijke) [reply src/foundation/slice.lagda.md:3]: I'm not proposing that you move things back, to be sure. Just wanted to know why the move was necessary.

File: src/foundation/fibered-maps.lagda.md [hunk 22]
```diff
@@ -3,104 +3,296 @@ title: Maps fibered over a map
...
+  map-over i = Σ (A → B) (is-map-over i)
+
+  fibered-map : UU (l1 ⊔ l3 ⊔ l2 ⊔ l4)
+  fibered-map = Σ (X → Y) (map-over)
+
+  fiberwise-map-over : (i : X → Y) → UU (l1 ⊔ l2 ⊔ l3 ⊔ l4)
+  fiberwise-map-over i = (x : X) → fib f x → fib g (i x)
+
+
+  cone-fibered-map : ((i , h , H) : fibered-map) → cone i g A
```
Comment (EgbertRijke) [inline src/foundation/fibered-maps.lagda.md:63]: I've never seen definitions with pattern matching before. Are we sure it doesn't cause some kind of problem, such as if `t` is a general triple not of the form `(i , h , H)` then this definition is still applicable and computes as expected?

**Review by EgbertRijke — COMMENTED** [review]
Overall an excellent pull request. Many thanks!

**Comment by EgbertRijke** [comment]
I would certainly welcome a PR removing all of them, but if you will do that, could you make that PR so that removing `{-# OPTIONS --without-K --exact-split #-}` and variations is the *only* thing happening in the pull request? I'm asking this, because you will change hundreds of files, and if you will do other changes in that pull request it will take me forever to review them all.

File: src/foundation-core/fibers-of-maps.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/foundation-core/fibers-of-maps.lagda.md:51]: Oh, I see. I will revert the relevant changes.

**Comment by EgbertRijke** [comment]
Please don't refactor more files in this pull request. Otherwise you'll make me go through all the changes again, to find what you did:)

File: src/foundation/fibers-of-maps.lagda.md (hunk 20 above)
Comment (fredrik-bakke) [reply src/foundation/fibers-of-maps.lagda.md:37]: This was already in core as `equiv-compute-fib-comp`.

File: src/foundation/slice.lagda.md (hunk 21 above)
Comment (fredrik-bakke) [reply src/foundation/slice.lagda.md:3]: I split the file as most of it did not use univalence, but the change was not strictly necessary. If you want, this change can be reverted without issue.

File: src/foundation/fibered-maps.lagda.md (hunk 22 above)
Comment (fredrik-bakke) [reply src/foundation/fibered-maps.lagda.md:63]: Unsure about this. I am not an expert on this side of agda. In my mind this is just a fancy way of writing `pr1`, so I'll change it to that.

**Comment by fredrik-bakke** [comment]
Yes, sorry, I stopped once I noticed you were active.

**Comment by fredrik-bakke** [comment]
And yes, I will do that.

**Comment by fredrik-bakke** [comment]
Is there a good reason why agda works better with copattern matching by the way? I find many of the definitions become hard to read when written in this way.

**Comment by EgbertRijke** [comment]
Yes, Agda tries to compute those definitions to normal form less often, so it becomes a little quicker.

File: src/foundation-core/coherently-invertible-maps.lagda.md [hunk 23]
```diff
@@ -123,10 +123,21 @@ module _
   abstract
     is-coherently-invertible-has-inverse :
       (H : has-inverse f) → is-coherently-invertible f
-    pr1 (is-coherently-invertible-has-inverse H) = inv-has-inverse H
-    pr1 (pr2 (is-coherently-invertible-has-inverse H)) = issec-inv-has-inverse H
-    pr1 (pr2 (pr2 (is-coherently-invertible-has-inverse H))) =
-      isretr-inv-has-inverse H
-    pr2 (pr2 (pr2 (is-coherently-invertible-has-inverse H))) =
-      coherence-inv-has-inverse H
+    is-coherently-invertible-has-inverse H =
```
Comment (EgbertRijke) [inline src/foundation-core/coherently-invertible-maps.lagda.md:126]: Sorry, the old definition by copattern matching was better

File: src/foundation-core/contractible-maps.lagda.md [hunk 24]
```diff
@@ -80,10 +78,10 @@ module _
   abstract
     center-fib-is-coherently-invertible :
       is-coherently-invertible f → (y : B) → fib f y
-    pr1 (center-fib-is-coherently-invertible H y) =
-      inv-is-coherently-invertible H y
-    pr2 (center-fib-is-coherently-invertible H y) =
-      issec-inv-is-coherently-invertible H y
+    center-fib-is-coherently-invertible H y =
```
Comment (EgbertRijke) [inline src/foundation-core/contractible-maps.lagda.md:81]: Again the old definition by copattern matching was better

File: src/foundation-core/contractible-maps.lagda.md [hunk 25]
```diff
@@ -96,10 +94,10 @@ module _
 
   is-contr-map-is-coherently-invertible : 
     is-coherently-invertible f → is-contr-map f
-  pr1 (is-contr-map-is-coherently-invertible H y) =
-    center-fib-is-coherently-invertible H y
-  pr2 (is-contr-map-is-coherently-invertible H y) =
-    contraction-fib-is-coherently-invertible H y
+  is-contr-map-is-coherently-invertible H y =
```
Comment (EgbertRijke) [inline src/foundation-core/contractible-maps.lagda.md:97]: Again the old definition by copattern matching was better

**Review by EgbertRijke — COMMENTED** [review]
It seems that you're changing a lot of definitions from the copattern matching style to explicit pairing style. I would like to keep the copattern matching style. 

I'm sorry, but I'm going to ask you to revert all those changes.

**Comment by fredrik-bakke** [comment]
Yes, sorry about that. I have reverted these changes. I'm committing shortly.

**Comment by fredrik-bakke** [comment]
I did not know about the performance issue.

**Comment by EgbertRijke** [comment]
It's a small performance gain per definition, but when its done systematically throughout the library it makes it about twice as fast. At least, it became twice as fast at the moment when I converted the library to copattern matching.

File: src/foundation/fibered-maps.lagda.md (hunk 17 above)
Comment (fredrik-bakke) [reply src/foundation/fibered-maps.lagda.md:51]: Thanks, I was unsure about this one myself. Would it also be fine to just write out the homotopy where used?

**Comment by fredrik-bakke** [comment]
Thank you for all the feedback. I've addressed most of the issues, but please get back to me on the last two when you have the time.

**Comment by EgbertRijke** [comment]
I will have another look tomorrow at this pull request, before I merge it. Thanks for the work you've done today!

File: src/foundation-core/type-arithmetic-dependent-pair-types.lagda.md [hunk 26]
```diff
@@ -164,8 +156,7 @@ module _
         isretr-map-inv-assoc-Σ
 
   assoc-Σ : Σ (Σ A B) C ≃ Σ A (λ x → Σ (B x) (λ y → C (pair x y)))
-  pr1 assoc-Σ = map-assoc-Σ
-  pr2 assoc-Σ = is-equiv-map-assoc-Σ
+  assoc-Σ = pair map-assoc-Σ is-equiv-map-assoc-Σ
```
Comment (EgbertRijke) [inline src/foundation-core/type-arithmetic-dependent-pair-types.lagda.md:159]: This definition should remain in copattern matching form

File: src/foundation/equivalences.lagda.md [hunk 27]
```diff
@@ -52,8 +50,7 @@ module _
   where
   
   emb-equiv : (A ≃ B) → (A ↪ B)
-  pr1 (emb-equiv e) = map-equiv e
-  pr2 (emb-equiv e) = is-emb-is-equiv (is-equiv-map-equiv e)
+  emb-equiv e = map-equiv e , is-emb-is-equiv (is-equiv-map-equiv e)
```
Comment (EgbertRijke) [inline src/foundation/equivalences.lagda.md:53]: This definition should remain in copattern matching form

File: src/foundation/equivalences.lagda.md [hunk 28]
```diff
@@ -289,8 +286,7 @@ module _
       is-prop-is-contr (is-contr-is-equiv-is-equiv H) H
 
   is-equiv-Prop : (f : A → B) → Prop (l1 ⊔ l2)
-  pr1 (is-equiv-Prop f) = is-equiv f
-  pr2 (is-equiv-Prop f) = is-property-is-equiv f
+  is-equiv-Prop f = is-equiv f , is-property-is-equiv f
```
Comment (EgbertRijke) [inline src/foundation/equivalences.lagda.md:289]: This definition should remain in copattern matching form

File: src/foundation/equivalences.lagda.md [hunk 29]
```diff
@@ -302,8 +298,7 @@ module _
     is-emb-map-equiv = is-emb-inclusion-subtype is-equiv-Prop
 
   emb-map-equiv : (A ≃ B) ↪ (A → B)
-  pr1 emb-map-equiv = map-equiv
-  pr2 emb-map-equiv = is-emb-map-equiv
+  emb-map-equiv = map-equiv , is-emb-map-equiv
```
Comment (EgbertRijke) [inline src/foundation/equivalences.lagda.md:301]: This definition should remain in copattern matching form

File: src/foundation/equivalences.lagda.md [hunk 30]
```diff
@@ -378,8 +373,7 @@ module _
       ( inv-inv-equiv)
 
   equiv-inv-equiv : (X ≃ Y) ≃ (Y ≃ X)
-  pr1 equiv-inv-equiv = inv-equiv
-  pr2 equiv-inv-equiv = is-equiv-inv-equiv
+  equiv-inv-equiv = inv-equiv , is-equiv-inv-equiv
```
Comment (EgbertRijke) [inline src/foundation/equivalences.lagda.md:376]: This definition should remain in copattern matching form

File: src/foundation/fibered-maps.lagda.md [hunk 31]
```diff
@@ -3,104 +3,298 @@ title: Maps fibered over a map
...
+## Definition
+
+```agda
+module _
+  {l1 l2 l3 l4 : Level} {A : UU l1} {B : UU l2} {X : UU l3} {Y : UU l4}
+  (f : A → X) (g : B → Y)
+  where
+
+  map-over : (X → Y) → UU (l1 ⊔ l2 ⊔ l4)
+  map-over i = Σ (A → B) (λ h → (i ∘ f) ~ (g ∘ h))
```
Comment (EgbertRijke) [inline src/foundation/fibered-maps.lagda.md:51]: This definition should use `coherence-square`

File: src/foundation/fibered-maps.lagda.md [hunk 32]
```diff
@@ -3,104 +3,298 @@ title: Maps fibered over a map
...
+
+  fibered-map : UU (l1 ⊔ l3 ⊔ l2 ⊔ l4)
+  fibered-map = Σ (X → Y) (map-over)
+
+  fiberwise-map-over : (X → Y) → UU (l1 ⊔ l2 ⊔ l3 ⊔ l4)
+  fiberwise-map-over i = (x : X) → fib f x → fib g (i x)
+
+
+  cone-fibered-map : (ihH : fibered-map) → cone (pr1 ihH) g A
+  cone-fibered-map (i , h , H) = f , h , H
```
Comment (EgbertRijke) [inline src/foundation/fibered-maps.lagda.md:61]: This definition can be in copattern matching form

File: src/foundation/fibered-maps.lagda.md [hunk 33]
```diff
@@ -3,104 +3,298 @@ title: Maps fibered over a map
...
+
+```agda
+module _
+  {l1 l2 l3 l4 l5 l6 : Level}
+  {A : UU l1} {B : UU l2} {C : UU l3}
+  {X : UU l4} {Y : UU l5} {Z : UU l6}
+  {f : A → X} {g : B → Y} {h : C → Z}
+  where
+
+  is-map-over-comp-horizontal :
```
Comment (EgbertRijke) [inline src/foundation/fibered-maps.lagda.md:172]: The statement can use `coherence-square`

File: src/foundation/fibered-maps.lagda.md [hunk 34]
```diff
@@ -3,104 +3,298 @@ title: Maps fibered over a map
...
+  {A : UU l1} {B : UU l2}
+  {C : UU l3} {D : UU l4}
+  {X : UU l5} {Y : UU l6}
+  {i : A → B} {j : C → D} {k : X → Y}
+  where
+
+  is-map-over-comp-vertical :
+    {f : A → C} {g : B → D}
+    {f' : C → X} {g' : D → Y} →
+    (j ∘ f) ~ (g ∘ i) → (k ∘ f') ~ (g' ∘ j) →
```
Comment (EgbertRijke) [inline src/foundation/fibered-maps.lagda.md:207]: `coherence-square`

File: src/foundation/fibered-maps.lagda.md [hunk 35]
```diff
@@ -3,104 +3,298 @@ title: Maps fibered over a map
...
+
+```agda
+module _
+  {l1 l2 l3 l4 : Level} {A : UU l1} {B : UU l2} {X : UU l3} {Y : UU l4}
+  where
+
+  is-trunc-is-map-over :
+    (k : 𝕋) → is-trunc (succ-𝕋 k) Y →
+    (f : A → X) (g : B → Y) (i : X → Y) (h : A → B) →
+    is-trunc k ((i ∘ f) ~ (g ∘ h))
```
Comment (EgbertRijke) [inline src/foundation/fibered-maps.lagda.md:223]: This conclusion should read `is-trunc k (is-map-over ...)`

File: src/foundation/fibered-maps.lagda.md [hunk 36]
```diff
@@ -3,104 +3,298 @@ title: Maps fibered over a map
...
+### The transpose of a fibered map
+
+```agda
+module _
+  {l1 l2 l3 l4 : Level} {A : UU l1} {B : UU l2} {X : UU l3} {Y : UU l4}
+  where
+
+  transpose-is-map-over :
+    (f : A → X) (g : B → Y) (i : X → Y) (h : A → B) →
+    ((i ∘ f) ~ (g ∘ h)) → ((g ∘ h) ~ (i ∘ f))
```
Comment (EgbertRijke) [inline src/foundation/fibered-maps.lagda.md:253]: Use `is-map-over` in this statement

File: src/foundation/fibered-maps.lagda.md [hunk 37]
```diff
@@ -3,104 +3,298 @@ title: Maps fibered over a map
...
+
+## Examples
+
+```agda
+module _
+  {l1 l2 : Level} {A : UU l1} {B : UU l2}
+  (h : A → B)
+  where
+
+  is-fibered-over-self : (h ∘ id) ~ (id ∘ h)
```
Comment (EgbertRijke) [inline src/foundation/fibered-maps.lagda.md:279]: `is-map-over`

File: src/foundation/fibered-maps.lagda.md [hunk 38]
```diff
@@ -3,104 +3,298 @@ title: Maps fibered over a map
...
+
+  self-map-over : map-over id id h
+  pr1 self-map-over = h
+  pr2 self-map-over = is-fibered-over-self
+
+  self-fibered-map : fibered-map id id
+  pr1 self-fibered-map = h
+  pr2 self-fibered-map = self-map-over
+
+  is-map-over-id : (id ∘ h) ~ (h ∘ id)
```
Comment (EgbertRijke) [inline src/foundation/fibered-maps.lagda.md:290]: is-map-over

**Review by EgbertRijke — COMMENTED** [review]
I had a few more comments. I think we should try to use `is-map-over` and `coherence-square` more systematically, and I caught a few more places where we could use copattern matching. The PR starts to look good now!

**Comment by fredrik-bakke** [comment]
Thank you so much again for your patience and feedback. I apparently missed the copattern matching in `foundation.equivalences`, nicely caught!

I'm a bit unsure about how you're envisioning the usage of `is-map-over` and `coherence-sqaure`, however. What I've done now is define `is-map-over` using `coherence-square` and everywhere else just use `is-map-over`. Is this what you were after or do you prefer using `coherence-square` in some other places as well?

And lastly, would you like me to unsplit the `slice` module? I've left replies directly in your reviews, but I'm unsure if you can easily see those.

**Comment by EgbertRijke** [comment]
Once the checks are done I will merge it. Thanks so much for helping improve the library!

**Comment by EgbertRijke** [comment]
Ah, I will go look for them. Indeed I missed the replies

**Comment by EgbertRijke** [comment]
In general, we want to be as systematic as possible. 

For simple cases, simply stating the homotopy in a commuting square might look more readable, but when things get complicated it really helps when you see

```md
coherence-square
  ( complicated-map1)
  ...
  ( complicated-map4)
```

so that up front you see that what is asserted is a commuting square. Another benefit in being systematic with reusing definitions is that it really helps the naming scheme too. If in your specifications you use `coherence-square` and `is-map-over` then in your names you'll also more likely be using `coherence-square` and `is-map-over`. Again, here we were in a simple situation and you were already naming things correctly, but in more complicated situations it really makes it easier to come up with names for things if you've been systematically reusing definitions.

**Comment by fredrik-bakke** [comment]
That sounds super interesting, looking forward to seeing that graph!

And thank you for the explanation. Given that, I would probably like to revert the split, but I guess it will have to be part of a later PR. Thanks again!

**Comment by EgbertRijke** [comment]
You can make it in a separate pull request. I prefer small PRs, as they're much quicker to review.

**Comment by fredrik-bakke** [comment]
Yeah, that makes sense. Sorry for the mess! I'll try to constrain my PRs from now on.
